US08957203B2
Tetrahydrofuran (110 mL) was added to a round bottom flask and placed under N2. trimethyl(trifluoromethyl)silane (4.13 mL, 28.0 mmol) was then added and stirred under N2 and then cooled to 0° C. Dihydro-2H-pyran-4(3H)-one (1.845 mL, 19.98 mmol) was then added via syringe and stirred for 5 minutes at 0° C. to ensure complete mixing. TBAF (0.200 mL, 0.200 mmol) was added dropwise slowly via syringe. The reaction was then allowed to warm up to RT for 30 min. The reaction was then cooled back down to 0° C. and added 1M HCl (50 mL) and then stirred at RT for overnight. The reaction was diluted with EtOAc and separated with brine. The organic layer was dried over MgSO4, filtered and evaporated to give the crude material which was crystallized from hexane to give the product 4-(trifluoromethyl)tetrahydro-2H-pyran-4-ol (1.45 g, 8.52 mmol, 42.7% yield) as white crystals. 1H NMR (400 MHz, CHLOROFORM-d) d 3.96-3.84 (m, 2H), 3.76 (td, J=12.1, 2.1 Hz, 2H), 2.08-1.90 (m, 3H), 1.65-1.48 (m, 2H).

reactant | Tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
reactant | trimethyl(trifluoromethyl)silane | 28.0 mmol, 4.13 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | Dihydro-2H-pyran-4(3H)-one | 19.98 mmol, 1.845 mL | O1CCC(CC1)=O | C5H8O2
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | TBAF | 0.200 mmol, 0.200 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 4-(trifluoromethyl)tetrahydro-2H-pyran-4-ol | 8.52 mmol, 1.45 g, 42.7% yield | FC(C1(CCOCC1)O)(F)F | C6H9F3O2
